US06486184B2
A solution of rac-cyclopentyloxy-(3,4-dichloro-phenyl)-acetic acid (52 mg, 0.17 mmol) in dichloromethane (10 mL) was treated with O-(1H-benzotriazolo-1-yl)-1,1,3,3-tetramethyluronium hexafluorophosphate (HBTU) (72 mg, 0.19 mmol), diisopropyl-ethylamine (0.09 mL, 0.52 mmol) and 2-aminothiazole (26 mg, 0.25 mmol). The resulting brownish-orange solution was then stirred 16 h at 25° C. The reaction was then diluted with water (10 mL) and extracted with ethyl acetate (3×15 mL). The combined organic layers were washed with water (1×10 mL), 1N sodium hydroxide solution (1×10 mL), 1N hydrochloric acid (1×10 mL) and brine (1×10 mL), then were dried over sodium sulfate and concentrated in vacuo. The product was purified by flash chromatography (Merck Silica gel 60, 230-400 mesh, 90/10 hexanes/ethyl acetate) to furnish rac-2-cyclopentyloxy-2-(3,4-dichloro-phenyl)-N-thiazol-2-yl-acetamide (45 mg, 70% yield) as a white foam: EI-HRMS m/e calcd for C16H16Cl2O2N2S (M+) 370.0309, found 370.0309.

reactant | rac-cyclopentyloxy-(3,4-dichloro-phenyl)-acetic acid | 0.17 mmol, 52 mg | C1(CCCC1)OC(C(=O)O)C1=CC(=C(C=C1)Cl)Cl | C13H14Cl2O3
reactant | diisopropyl-ethylamine | 0.52 mmol, 0.09 mL | C(C)(C)N(CC)C(C)C | C8H19N
reactant | 2-aminothiazole | 0.25 mmol, 26 mg | NC=1SC=CN1 | C3H4N2S
solvent | dichloromethane | 10 mL | ClCCl | CH2Cl2
solvent | water | 10 mL | O | H2O
product | rac-2-cyclopentyloxy-2-(3,4-dichloro-phenyl)-N-thiazol-2-yl-acetamide | 45 mg, 70% yield | C1(CCCC1)OC(C(=O)NC=1SC=CN1)C1=CC(=C(C=C1)Cl)Cl | C16H16Cl2N2O2S
